US06458968B2
Preparation of benzyl dithiopropionate
A mixture of propionic acid (0.74 g), benzyl mercaptan (1.24 g) and phosphorus pentasulfide (4.44 g) in toluene (40 ml) was refluxed for 10 h. A dark red color was developed immediately after heating. After the reaction was complete (as monitored by GC-MS), it was cooled to room temperature and purified by a column chromatography packed with neutral alumina, eluting with benzene. Removal of the solvent by distillation gave the desired compound, benzyl dithiopropionate (0.98 g, 50%) without further purification. The structure was confirmed by 1H and 13C-NMR.

reactant | propionic acid | 0.74 g | C(CC)(=O)O | C3H6O2
reactant | benzyl mercaptan | 1.24 g | C(C1=CC=CC=C1)S | C7H8S
reactant | phosphorus pentasulfide | 4.44 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl dithiopropionate | 0.98 g, 50% | C(CC)(=S)SCC1=CC=CC=C1 | C10H12S2
